US08912188B2
To a solution of 5-chlorobenzofuran (14 g, crude) in dry tetrahydrofuran (250 mL) were added tetramethylethylenediamine (12.82 g, 110 mmol). The solution was kept below −60° C. under argon, while the solution of butyllithium in hexane (44 ml, 2.5 M) was added dropwise. It was warmed to −10° C. during 45 min and stirred at this temperature for another 30 min. The mixture was cooled again below −60° C. followed by dropwise addition of triisopropyl borate (51.88 g, 276 mmol). After warming to room temperature the mixture was quenched with hydrochloric acid (70 ml, 2N) and stirred for 1 h. The alkaline aqueous layer was brought to pH 5 and extracted with ethyl acetate (3×80 ml). All organic layers were combined, dried over sodium sulfate, and concentrated in vacuo to give 5-chlorobenzofuran-2-ylboronic acid (7.5 g) which was used for the next step without further purification.

reactant | 5-chlorobenzofuran | 14 g | ClC=1C=CC2=C(C=CO2)C1 | C8H5ClO
reactant | tetramethylethylenediamine | 110 mmol, 12.82 g | CN(CCN(C)C)C | C6H16N2
reactant | butyllithium | C(CCC)[Li]
reactant | triisopropyl borate | 276 mmol, 51.88 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | hexane | 2.5 M, 44 ml | CCCCCC | C6H14
product | 5-chlorobenzofuran-2-ylboronic acid | 7.5 g | ClC=1C=CC2=C(C=C(O2)B(O)O)C1 | C8H6BClO3
